US07714099B2
4,4′-dibromotriphenylamine
In an oxygen-free glovebox, a 250 mL flask was charged with 4,4′-dibromodiphenylamine (15.0 g, 45.8 mmol), iodobenzene (18.7 g, 91.7 mmol), 1,10-phenanthroline (0.827 g, 4.59 mmol), CuCl (0.454 g, 4.59 mmol), KOH (15.4 g, 275 mmol), and toluene (125 mL). The flask was sealed and removed from the glovebox and heated to 130° C. and stirred for 24 hr. The flask was then removed from the oil bath and allowed to cool to room temperature. The solids were filtered off and the solvent was removed to yield a bluish oily substance, which was passed through silica gel column using toluene as the eluant. The fractions were collected and the solvent was removed followed by vacuum distillation at 160° C. for 30 min to remove the remaining iodobenzene to afford a blue solid. This solid was further purified by a second silica plug column using hexanes as the eluant. The colorless clear fractions were combined and the solvent removed to yield the desired product. Purity: 99+%.

reactant | 4,4′-dibromodiphenylamine | 45.8 mmol, 15.0 g | C1=CC(=CC=C1NC2=CC=C(C=C2)Br)Br | C12H9Br2N
reactant | iodobenzene | 91.7 mmol, 18.7 g | IC1=CC=CC=C1 | C6H5I
reactant | 1,10-phenanthroline | 4.59 mmol, 0.827 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | KOH | 275 mmol, 15.4 g | [OH-].[K+]
catalyst | CuCl | 4.59 mmol, 0.454 g | Cl[Cu]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | 4,4′-dibromotriphenylamine | C1=CC=C(C=C1)N(C2=CC=C(C=C2)Br)C3=CC=C(C=C3)Br | C18H13Br2N
